US04555263
A mixture of 4-nitrobenzaldehyde (10.0 g), potassium carbonate (10.0 g), n-butylthiol (12.5 ml) and dimethylformamide (12.5 ml) was heated at 100° C. for a period of 16 hours, cooled and poured into water (250 ml). The aqueous mixture was extracted with diethyl ether (4×250 ml) and the combined organic phases were washed with aqueous 2% sodium hydroxide solution (5×100 ml) and finally with water. The organic phase was dried over anhydrous sodium sulfate and the solvent was removed by distillation to give 4-(n-butylthio)benzaldehyde (10.8 g) as a reddish coloured oil. The product was characterized by proton nuclear magnetic resonance spectroscopy. Pmr (CDCl3 ; δ in ppm): 0.97 (3H, t); 1.60 (4H, m); 3.03 (2H, t); 7.32 (2H, d); 7.77 (2H, d); 9.89 (1H, s).

reactant | 4-nitrobenzaldehyde | 10.0 g | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
reactant | potassium carbonate | 10.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | n-butylthiol | 12.5 ml | CCCCS | C4H10S
reactant | dimethylformamide | 12.5 ml | CN(C=O)C | C3H7NO
solvent | water | 250 ml | O | H2O
product | 4-(n-butylthio)benzaldehyde | 10.8 g | C(CCC)SC1=CC=C(C=O)C=C1 | C11H14OS
